US07179801B2
To a solution of 5-amino-4-(tert-butoxycarbonylaminomethyl)-1-(2-hydroxyethyl)-1H-pyrazole (243 g) in N,N-dimethylformamide (1.82 L) was added triphenylmethyl chloride (581 g), triethylamine (452 ml) and N,N-dimethylaminopyridine (9.91 g) successively. The reaction mixture was stirred at 70° C. overnight. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate, washed with water (twice) and brine, dried over magnesium sulfate and filtered. The filtrate was evaporated in vacuo. The residue was purified by silica gel column chromatography to give 4-(tert-butoxycarbonylaminomethyl)-5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazole, which was crystallized from diisopropyl ether/hexane (1:2). The resulting crystals were collected by filtration on a glass filter, washed with diisopropyl ether/hexane (1:2) and dried in vacuo to give the objective compound (480 g).

reactant | 5-amino-4-(tert-butoxycarbonylaminomethyl)-1-(2-hydroxyethyl)-1H-pyrazole | 243 g | NC1=C(C=NN1CCO)CNC(=O)OC(C)(C)C | C11H20N4O3
reactant | triphenylmethyl chloride | 581 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 452 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 1.82 L | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(tert-butoxycarbonylaminomethyl)-5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazole | C(C)(C)(C)OC(=O)NCC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C49H48N4O3
